Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Dilaudid / Demerol / Fentanyl / amitriptyline
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of traumatic
brain injury in ___ (age ___ and seizures since the age of ___
with a history of diagnosed frontal lobe seizures and 
psychogenic
nonepileptic seizures, who has now had very frequent episodes
___ per week), often unwitnessed, involving falling and
prolonged shaking at her group home recently, with resultant
visits to the Emergency Department (roughly 60 visits to the
___ in the past year). On a previous admission to the 
ED,
the patient had to be transferred to the ICU for breathing
difficulties on Ativan. She continues on five total 
antiepileptic
drugs including gabapentin, levetiracetam, lamotrigine,
zonisamide and the recently added clobazam, but the events
continue.

Sz: There are 2 seizure types: First one is described per OMR
that were discussed and affirmed by her sister and group home
nurse and the second per sister. 

1. Infrequently, the patient get a warning that a seizure is
about to occur when she sees stars. She is told by others that
she then collapses, and has convulsive shaking for up to 15
minutes in duration. She can only recall being in her group home
one minute then being in the hospital. Her events have been
associated with a number of injuries. She describes instances
where she has fallen off of the toilet and off of the bed at
night. Because of her risk of injury, Ms. ___ wears a 
helmet.
Her triggers include tiredness and flashing lights (though 
lights
only provoked an event one time in the past). She is told that
after her seizures that her speech is grabbled. 

2. Her sister noted that ___ years ago she had staring spells 
but
no automatisms. This has not been described as a recent seizure. 


One electrographric epileptic seizure captured in ___ 
apparently
left frontocentral in onset, lasting for about 30 seconds,
without definite clinical correlate. Some past EEG studies have
demonstrated left temporal slowing. 

In ___, she was admitted to ___ and had EEG monitoring that
showed non-epileptiform seizures. 

The patient was followed for many years at ___ but was
then lost to f/u in ___. During this time, she was getting care
at ___. 
___ years the patient underwent LTM and started on Clobazam. Dr.
___ her care at ___.  

On neuro ROS, the pt endorses constant headache in the temporal
and periorbital regions, blurry vision, diplopia, dysarthria,
dysphagia, lightheadedness, tinnitus or hearing difficulty (put
super glue in her ears). She denies loss of vision or recent sx
of vertigo. She endorses numbness and paralysis in the left
lateral cervical region. She endorses numbness in the L index
finger and thumb. She endorses constipation, stress incontinence
and vaginal bleeding with straining. Denies focal weakness.

On general review of systems, the pt endorses nausea, diarrhea,
constipation, abdominal pain, arthralgias, and shortness of
breath. She denies recent fever or chills.  No night sweats or
recent weight loss or gain. Denies cough.  Denies chest pain or
tightness, palpitations.  Denies vomiting,and dysuria.  Denies
myalgias. Denies rash.
 
Past Medical History:
Fetal Alcohol Syndrome 
Epilepsy 
Schizoaffective Disorder (attempted suicide) 
TBI in context of MVC @ age ___ 
ID 
T2D 
GERD 
Hypothyroidism 
SIADH 
Stress Incontinence 
Bilateral Rotator Cuff Surgeries 
Deviated Septum 
Bladder Suspension Surgery 
BPPV 
Bursitis
 
Social History:
___
Family History:
-Mom deceased (alcohol related complications)  
-Father decreased  (alcohol related complications) 
-Cousin: seizure disorder 
No other family his of neurological conditions. 
 
Physical Exam:
Admission Exam:
T= 97.4 F, BP= 114/58, HR= 52, RR= 18, SaO2= 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, oropharynx clear
Neck: Supple, No nuchal rigidity
Pulmonary: breathes comfortably 
Cardiac: RRR, no murmurs
Abdomen: soft, tender in the lower quadrant, nondistended
Extremities: no edema, pulses palpated, WWP 
Skin: no rashes 
 
Neurologic:
-Mental Status: Alert, oriented to BI, MDY.  Able to relate
history.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects. 
Reading
not tested.  Speech was not dysarthric.  Able to follow both
midline and appendicular commands.  Inattentive, unable to name
___
backward (2 errors and then declined continuing), able to name
___ backwards. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm, both directly and consentually; brisk
bilaterally.  Deficit in L eye in the RUQ. 
III, IV, VI: EOMI with R end gaze nystagmus.  Normal saccades. L
ptosis
V: Facial sensation intact to light touch, and ___ strength 
noted
bilateral in masseter and temporalis 
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
VIII: Hearing diminished to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremor. No asterixis noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     3    2
R   2    2     2     3    2
- Plantar response was flexor on LLE. Withdrawal on RLE made
difficult asses
- Pectoralis Jerk was absent 
- Adductor Jerk present 

-Sensory: No deficits to light touch, vibratory sense,
proprioception throughout. Decreased cold sensation on the LLE 
No
extinction to DSS.

-Coordination: No intention tremor, dysdiadochokinesia noted.
Dysmetria on FNF bilaterally. No dysmetria on HKS bilaterally.

-Gait: Not assessed for concern of fall risk 

_
_
_
_
________________________________________________________________
Discharge exam: 
Vitals: Temp: 98.1; BP: 118/58; HR: 51; RR: 18; O2: 98%(RA); 
Glucose 167-224

Mental status: Awake, alert, responsive, answers questions, 
follows commands
Cranial nerves: PERRL, EOMI, no nystagmus, face symmetric, 
sensation symmetric, hearing diminished bilaterally (chronic)
Motor: Strength ___ throughout
Coordination: Finger-nose-finger normal; Toe-finger normal. Fast 
finger tap normal. No truncal ataxia.
Gait: ambulates with rolling walker
 
Pertinent Results:
___ 07:34PM BLOOD WBC-5.9 RBC-4.00 Hgb-12.8 Hct-38.0 
MCV-95# MCH-32.0# MCHC-33.7 RDW-11.9 RDWSD-41.1 Plt ___
___ 07:34PM BLOOD Neuts-61.8 ___ Monos-5.1 Eos-0.0* 
Baso-0.2 Im ___ AbsNeut-3.68 AbsLymp-1.94 AbsMono-0.30 
AbsEos-0.00* AbsBaso-0.01
___ 07:34PM BLOOD Plt ___
___ 07:34PM BLOOD Glucose-219* UreaN-26* Creat-0.7 Na-142 
K-3.7 Cl-105 HCO3-28 AnGap-13
___ 07:34PM BLOOD ALT-25 AST-20
___ 07:34PM BLOOD Albumin-4.4 Calcium-10.2 Phos-2.7 Mg-2.0
___ 07:34PM BLOOD TSH-0.90
___ 07:34PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 01:20PM BLOOD Calcium-11.1* Phos-3.6 Mg-2.1

___ EEG
This is a normal continuous video EEG monitoring study. There 
are no pushbutton activations, focal abnormalities, epileptiform 
discharges, or electrographic seizures. 

___ EEG
This is a mildly abnormal continuous video EEG monitoring study 
due to frequent interruptions of focal slowing independently in 
both temporal 
regions, more often on the left, indicative of mild subcortical 
dysfunction in these regions. There are no pushbutton 
activations, epileptiform discharges, or electrographic 
seizures. 

___ EEG
This continuous video EEG recording was abnormal due to some 
intermittent focal slowing in the left temporal region 
suggesting focal subcortical dysfunction in that area. A 
pushbutton activation for head, ear, and finger symptoms was not 
associated with any significant EEG change. No 
epileptiform features or electrographic seizures were seen. The 
ackground 
showed a normal alpha rhythm during wakefulness.

___ EEG
This continuous video EEG recording captured no pushbutton 
activations, epileptiform features, or electrographic seizures. 
The 
background showed a normal alpha rhythm during wakefulness. 

___ EEG
This is a normal-appearing prolonged continuous EEG telemetry 
monitoring. There are periods of bitemporal independent theta 
slowing 
compatible with a psychomotor variant. Otherwise no focal, 
lateralizing, or epileptic features are clearly identified. 

___ EEG
This is a normal continuous EMU recording. There were several 
pushbuttons around one constellation of symptoms and behavior. 
Data as noted above. There is no change noted on EEG with it. 
The patient continues to have what appears to be bitemporal 
independent psychomotor variant. No clear interictal epileptic 
activity was identified on this tracing. 

___ EEG
This is a normal continuous EMU monitoring study. There are no 
pushbutton activations. No electrographic seizures are recorded. 


___ EEG
This is a normal continuous EMU recording. There was one 
pushbutton as noted above that did not have any clear 
electrographic or 
cardiac changes. It should be noted that the patient had very 
poor sleep 
during the course of this evening. 

 
Brief Hospital Course:
Ms ___ was admitted to the hospital because of episodes 
concerning for seizures. She was monitored on EEG throughout her 
stay. We were able to wean her off of her levetiracetam, 
clobazam, and partly off of her gabapentin. We also changed her 
zonisamide to be twice a day. She did not have any episodes 
concerning for seizure, and her EEG did not demonstrate any 
epileptiform abnormalities or seizures. We felt that these falls 
were more likely related to her multiple medications making her 
unsteady than seizures.

***Transitional issues:
- Ca was 11.1 during admission. Medications that might increase 
Ca were stopped. Ca should be rechecked by PCP as outpatient, 
and Ca/VitD can be restarted as appropriate.
- if insomnia continues to be a problem, can consider starting 
trazodone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LeVETiracetam 1500 mg PO BID 
2. LaMOTrigine 250 mg PO BID 
3. melatonin 5 mg oral QHS 
4. Clobazam 15 mg PO BID 
5. Zonisamide 400 mg PO DAILY 
6. diazepam 10  Other ONCE:PRN seizure 
7. Oxybutynin 10 mg PO DAILY 
8. Lantus (insulin glargine) 9 u subcutaneous QHS 
9. Sertraline 50 mg PO DAILY 
10. OLANZapine 15 mg PO DAILY 
11. Glucagon 1 mg IM ONCE:PRN BG<60 
12. Lorazepam 0.5 mg PO QHS 
13. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
14. Docusate Sodium 100 mg PO BID 
15. FoLIC Acid 1 mg PO DAILY 
16. Levothyroxine Sodium 75 mcg PO DAILY 
17. Psyllium Powder 1 PKT PO BID 
18. Multivitamins 1 TAB PO DAILY 
19. Gabapentin 300 mg PO BID 
20. Senna 17.2 mg PO DAILY:PRN constipation 
21. Riboflavin (Vitamin B-2) 200 mg PO BID 
22. Ranitidine 150 mg PO QHS 
23. Simvastatin 20 mg PO QPM 
24. Artificial Tears ___ DROP BOTH EYES Q6H:PRN dry eyes 
25. Loratadine 10 mg PO DAILY:PRN allergies 
26. Fleet Enema ___AILY:PRN constipation 
27. Ibuprofen 600 mg PO Q8H:PRN pain 
28. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN 
heartburn 
29. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
30. Robitussin Cough-Chest-Cong DM 
(dextromethorphan-guaifenesin) ___ mg oral Q4H:PRN cough 
31. Acetaminophen 650 mg PO Q6H:PRN pain 
32. HydrOXYzine 10 mg PO TID:PRN itch 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
RX *gabapentin 100 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*3
5. Glucagon 1 mg IM ONCE:PRN BG<60 
6. Ibuprofen 600 mg PO Q8H:PRN pain 
7. LaMOTrigine 250 mg PO BID 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Oxybutynin 10 mg PO DAILY 
11. Psyllium Powder 1 PKT PO BID 
12. Ranitidine 150 mg PO QHS 
13. Riboflavin (Vitamin B-2) 200 mg PO BID 
14. Senna 17.2 mg PO DAILY:PRN constipation 
15. Simvastatin 20 mg PO QPM 
16. Zonisamide 200 mg PO BID 
RX *zonisamide 100 mg 2 capsule(s) by mouth twice a day Disp 
#*120 Capsule Refills:*3
17. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
RX *fluticasone 50 mcg/actuation 1 Spray nasal daily in each 
nostril Disp #*1 Spray Refills:*3
18. Ondansetron 4 mg PO QPM:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every evening with 
evening meds as needed Disp #*30 Tablet Refills:*3
19. Simethicone 40-80 mg PO TID:PRN gi upset 
RX *simethicone [Mi-Acid Gas Relief] 80 mg ___ tablet by mouth 
three times daily as needed Disp #*60 Tablet Refills:*3
20. Artificial Tears ___ DROP BOTH EYES Q6H:PRN dry eyes 
21. diazepam 10  Other ONCE:PRN seizure 
22. Fleet Enema ___AILY:PRN constipation 
23. HydrOXYzine 10 mg PO TID:PRN itch 
24. Lantus (insulin glargine) 9 u subcutaneous QHS 
25. Loratadine 10 mg PO DAILY:PRN allergies 
26. melatonin 5 mg oral QHS 
27. Robitussin Cough-Chest-Cong DM 
(dextromethorphan-guaifenesin) ___ mg oral Q4H:PRN cough 
28. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
29. OLANZapine 15 mg PO DAILY 
RX *olanzapine 15 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5
30. Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Medication toxicity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital because of episodes of falling 
and loss of consciousness. We performed a prolonged EEG that did 
not show seizures. We were able to take you off many of the 
anti-seizure medications that you were on, and you did not have 
any seizures during your stay. We think your symptoms were 
likely due to overmedication. You were evaluated by ___ and are 
safe to use a rolling walker. You will return to your day 
program on ___. You will have a follow up appointment 
with Dr. ___. Please call your primary care for an appointment 
in ___ weeks.
 
Followup Instructions:
___